US04652304
To a mixture of 14.62 ml of n-propylmercaptan, 16.3 g of potassium t-butoxide and 400 ml of DMF at 0° C. was added 27.45 g (0.1076 mole) of N-difluoromethyl-N-methyl-2-chlorobenzenesulfonamide in 100 ml of DMF. The reaction mixture was stirred at room temperature for 2 days and then at 60° C. for 4 hours. The mixture was then concentrated and the residue was partitioned between 1N HCl solution and methylene chloride. The organic layer was separated, dried over MgSO4, and concentrated. The residue was chromatographed on silica gel (Hexane/chloroform 3:2) to yield 24.63 g of N-difluoromethyl-N-methyl-2-(n-propylthio)benzenesulfonamide as an oil.

reactant | n-propylmercaptan | 14.62 ml | C(CC)S | C3H8S
reactant | potassium t-butoxide | 16.3 g | CC(C)([O-])C.[K+]
reactant | N-difluoromethyl-N-methyl-2-chlorobenzenesulfonamide | 0.1076 mole, 27.45 g | FC(N(S(=O)(=O)C1=C(C=CC=C1)Cl)C)F | C8H8ClF2NO2S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | N-difluoromethyl-N-methyl-2-(n-propylthio)benzenesulfonamide | 24.63 g | FC(N(S(=O)(=O)C1=C(C=CC=C1)SCCC)C)F | C11H15F2NO2S2
